US07989442B2
b. 2-amino-4-bromo-5-fluorophenol
A suspension of Na2S2O4 (51.6 g, 296 mmol) in water (122 mL) was added slowly to a refluxed mixture of 4-bromo-5-fluoro-2-nitrophenol (14 g, 59.3 mmol) in ethanol (1000 mL). The resulting mixture was refluxed for 1 h. After cooling down the salts were filtered off and the filtrate was partially concentrated. Brine was added, extracted with diethyl ether, the extract dried and concentrated to give the crude title compound which was used without further purification (9.2 g, 75%). 1H-NMR (400 MHz, DMSO) 4.65 (br, 2H), 6.60 (d, J=11.3, 1H), 6.76 (d, J=7.8, 1H), 9.80 (br, 1H).

reactant | Na2S2O4 | 296 mmol, 51.6 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | 4-bromo-5-fluoro-2-nitrophenol | 59.3 mmol, 14 g | BrC1=CC(=C(C=C1F)O)[N+](=O)[O-] | C6H3BrFNO3
solvent | water | 122 mL | O | H2O
solvent | ethanol | 1000 mL | C(C)O | C2H6O
product | 2-amino-4-bromo-5-fluorophenol | NC1=C(C=C(C(=C1)Br)F)O | C6H5BrFNO
